US04220761
A mixture of ethyl 2-hydroxyimino-3-oxobutyrate (syn isomer, 15.7 g.), 2-bromoethyl benzoate (27.5 g.), potassium carbonate (20.7 g.), N,N-dimethylformamide (25 ml.) and ethyl acetate (25 ml.) was stirred at room temperature for 4 hrs. The reaction mixture was treated in a conventional manner to give ethyl 2-(2-benzoyloxyethoxyimino)-3-oxobutyrate (syn isomer, 28 g.).

reactant | ethyl 2-hydroxyimino-3-oxobutyrate | 15.7 g | ON=C(C(=O)OCC)C(C)=O | C6H9NO4
reactant | 2-bromoethyl benzoate | 27.5 g | C(C1=CC=CC=C1)(=O)OCCBr | C9H9BrO2
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-benzoyloxyethoxyimino)-3-oxobutyrate | 28 g | C(C1=CC=CC=C1)(=O)OCCON=C(C(=O)OCC)C(C)=O | C15H17NO6
